US07365095B2
Treatment of (2R)-2-(azidomethyl)-7-chloro-8-(2-chlorophenyl)chroman (1.5 g, 4.48 mmol) with polymer-bound triphenylphosphine (3 mmol/g, 1.94 g, 5.82 mmol) according to the procedure described for Example 69, Step 10 provided 0.70 g (45%) of ((2R)-7-chloro-8-(2-chlorophenyl)chroman-2-yl)methanamine hydrochloride as a white solid salt, mp 220–222° C.; MS (ESI) m/z 308.1 ([M+H]+); [α]D25=−26.4° (c=1% SOLN, MeOH).

reactant | (2R)-2-(azidomethyl)-7-chloro-8-(2-chlorophenyl)chroman | 4.48 mmol, 1.5 g | N(=[N+]=[N-])C[C@@H]1OC2=C(C(=CC=C2CC1)Cl)C1=C(C=CC=C1)Cl | C16H13Cl2N3O
reactant | triphenylphosphine | 5.82 mmol, 1.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | ((2R)-7-chloro-8-(2-chlorophenyl)chroman-2-yl)methanamine hydrochloride | 0.70 g, 45% | Cl.ClC1=CC=C2CC[C@@H](OC2=C1C1=C(C=CC=C1)Cl)CN | InChI=1S/C16H15Cl2NO.ClH/c17-13-4-2-1-3-12(13)15-14(18)8-6-10-5-7-11(9-19)20-16(10)15;/h1-4,6,8,11H,5,7,9,19H2;1H/t11-;/m1./s1
